US04959363
A mixture of 2.70 g 2-amino-3-cyano-1,4-dihy- dro-1-ethyl-4-oxo-7-(4-pyridinyl)quinoline methanesulfonate and 25 ml sulfuric acid was heated at 100° C. for 4 hrs. The reaction mixture was cooled, poured onto ice and made basic with ammonium hydroxide. The solid product was collected and recrystallized twice from DMF to give 2.45 g 2-amino-1,4-dihydro-1-ethyl-4-oxo-7-(4-pyridinyl)-3quinolinecarboxamide, m.p. above 300° C.

reactant | 2-amino-3-cyano-1,4-dihy- dro-1-ethyl-4-oxo-7-(4-pyridinyl)quinoline methanesulfonate | 2.70 g | CS(=O)(=O)O.NC=1N(C2=CC(=CC=C2C(C1C#N)=O)C1=CC=NC=C1)CC
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-amino-1,4-dihydro-1-ethyl-4-oxo-7-(4-pyridinyl)-3quinolinecarboxamide | 2.45 g | NC=1N(C2=CC(=CC=C2C(C1C(=O)N)=O)C1=CC=NC=C1)CC | C17H16N4O2
